US05334614
Using an analogous procedure to that described in Example 1 except that the reactants were heated to 60° C for 2 hours, acetohydroxamic acid was reacted with 4-{3-[4-(1-chloroethyl)phenylthio]-5-fluorophenyl}-4-methoxytetrahydropyran to give 4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α-methylbenzyl acetohydroxamate as a gum in 62% yield.

reactant | acetohydroxamic acid | C(C)(=O)NO | C2H5NO2
reactant | 4-{3-[4-(1-chloroethyl)phenylthio]-5-fluorophenyl}-4-methoxytetrahydropyran | ClC(C)C1=CC=C(C=C1)SC=1C=C(C=C(C1)F)C1(CCOCC1)OC | C20H22ClFO2S
product | 4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α-methylbenzyl acetohydroxamate | 62% yield | C(C)(=O)NOC(C1=CC=C(C=C1)SC1=CC(=CC(=C1)F)C1(CCOCC1)OC)C | C22H26FNO4S
